US07504408B2
7-[3-(4-acetylpiperazin-1-yl)propoxy]-N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine
N-[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (192 mg, 0.38 mmol) and 1-acetylpiperazine (244 mg, 1.9 mmol) in 2-methoxyethanol (4 ml) were stirred and heated at 100° for 12 hr. then quenched in water and extracted with dichloromethane. The combined extracts were washed with saturated brine, dried over magnesium sulphate and evaporated to an orange oil. This was then purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (187 mg, 82%) as a pale yellow solid; NMR Spectrum:(DMSOd6) 1.98 (quintet, 2H), 1.99 (s, 3H), 2.33 (m, 2H), 2.40 (m, 2H), 2.48 (t, 2H), 2.72 (t, 2H), 3.31 (s, 3H), 3.43 (m, 4H), 3.53 (t, 2H), 3.93 (s, 3H), 4.21 (t, 2H), 6.13 (s, 2H), 7.07 (s, 1H), 7.18 (s, 1H), 7.81 (s, 1H), 8.32 (s, 1H), 9.50 (s, 1H); Mass Spectrum: M+H+ 596/598.

reactant | N-[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.38 mmol, 192 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C24H23Cl2N3O5
reactant | 1-acetylpiperazine | 1.9 mmol, 244 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | 2-methoxyethanol | 4 ml | COCCO | C3H8O2
product | 7-[3-(4-acetylpiperazin-1-yl)propoxy]-N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine | 187 mg, 82% | C(C)(=O)N1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=2OCOC21)C#CCCOC)Cl)OC | C30H34ClN5O6
